US04517195
(2-Benzoyl-1H-pyrrol-1-yl)-carbamic acid, ethyl ester
To a mixture of 1-amino-2-benzoylpyrrole (12.3 g, 66 mmol) and sodium bicarbonate (13.9 g, 165 mmol) in 250 ml of dichloromethane was added a solution of ethyl chloroformate (8.2 g, 75 mmol) in 50 ml of dichloromethane. This mixture was stirred at reflux for 5 hours and then quenched with 150 ml of ice. The dichloromethane layer was separated, washed with water, dried over anhydrous Na2SO4, filtered and evaporated to an oil. This oil solidified upon trituration with hexane to give 16.3 g (96%) of powder, m.p. 68°-70°.

reactant | 1-amino-2-benzoylpyrrole | 66 mmol, 12.3 g | NN1C(=CC=C1)C(C1=CC=CC=C1)=O | C11H10N2O
reactant | sodium bicarbonate | 165 mmol, 13.9 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 75 mmol, 8.2 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2-Benzoyl-1H-pyrrol-1-yl)-carbamic acid, ethyl ester | 16.3 g, 96% | C(C1=CC=CC=C1)(=O)C=1N(C=CC1)NC(OCC)=O | C14H14N2O3
